US08049015B2
To (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine (22.3 g, 79.1 mmol) and triethylamine (16.53 mL, 118.6 mmol) in CH2Cl2 (200 mL) was added cyclopropanecarbonyl chloride (8.68 mL, 94.9 mmol) dropwise over 15 minutes, and the reaction was stirred at room temperature for 2 hours. The mixture was partitioned between CH2Cl2 and H2O, and the aqueous layer was separated and extracted twice with CH2Cl2. The combined organic layers were dried and concentrated, and the residue was purified by silica gel chromatography (10-30% EtOAc in hexanes) to give cyclopropanecarboxylic acid (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amide.

reactant | (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine | 79.1 mmol, 22.3 g | BrC1=C(CNCC)C=C(C=C1)C(F)(F)F | C10H11BrF3N
reactant | triethylamine | 118.6 mmol, 16.53 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 94.9 mmol, 8.68 mL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | cyclopropanecarboxylic acid (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amide | BrC1=C(CN(C(=O)C2CC2)CC)C=C(C=C1)C(F)(F)F | C14H15BrF3NO
